US05512433
Beginning with 8-(5-hydroxypentylamino) theophylline in Example 3, 1.0 ml of dimethylsulfate (DMS) was added to 1.40 g of 8-(5-hydroxypentylamino) theophylline in 20 ml of water containing 0.3 g of sodiumhydroxide. The 1.0 ml DMS was added in 0.1 ml increments over of hour at: room temperature. A colorless crystalline solid separated and was collected by filtration. This solid was dried to provide 0.850 g of 8-(5-hydroxypentylamino) caffeine.

reactant | 8-(5-hydroxypentylamino) theophylline | OCCCCCNC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C12H19N5O3
reactant | dimethylsulfate | 1.0 ml | COS(=O)(=O)OC | C2H6O4S
reactant | 8-(5-hydroxypentylamino) theophylline | 1.40 g | OCCCCCNC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C12H19N5O3
reactant | sodiumhydroxide | [OH-].[Na+]
reactant | DMS | 1.0 ml | COS(=O)(=O)OC | C2H6O4S
solvent | water | 20 ml, 0.3 g | O | H2O
product | 8-(5-hydroxypentylamino) caffeine | 0.850 g | OCCCCCNC1=NC=2N(C(N(C)C(C2N1C)=O)=O)C | C13H21N5O3
